US05366989
To 4 ml of 47% hydrobromic acid was added 500 mg of N-(4-chlorobenzyl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide. The resulting mixture was refluxed for 6 hours. Thereto were added 20 ml of toluene and 20 ml of water. The resulting solution was adjusted to pH 8.5 with sodium carbonate. The aqueous layer was separated and 20 ml of ethyl acetate was added thereto. The resulting mixture was adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure to obtain 230 mg of 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyric acid.

reactant | hydrobromic acid | 4 ml | Br | BrH
reactant | N-(4-chlorobenzyl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide | 500 mg | ClC1=CC=C(CNC(C(C(CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)(F)F)=O)C=C1 | C19H15ClF4N4O2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
product | 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyric acid | 230 mg | FC1=C(C=CC(=C1)F)C(C(C(=O)O)(F)F)(CN1N=CN=C1)O | C12H9F4N3O3
